Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Dysarthria, left facial droop
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
___ is a ___ year-old right-handed man with a PMHx of AF 
not on Coumadin (stopped taking in setting of moving to 
___ use), HTN, active tobacco use, and prior alcohol 
use disorder (sobriety for ___ years) who presents with 7 days of 
headache as well as dysarthria and left facial droop since 
7:00am this morning and was found to have a large territory R 
MCA stroke. The history is obtained from the patient.

She was in his USOH until 1 week ago at which time he began to 
experience a bilateral frontal headache that was sharp in 
character and has been constant since then. It was gradual in 
onset, worsened with sneezing, was ___ in severity, and 
prevented him from sleeping. He also had neck stiffness. He is 
not someone who typically gets headaches. Yesterday evening, he 
presented to ___ at which time he was treated with 
a migraine cocktail, and the headache subsided. He was 
discharged home without head imaging. 

He went to sleep around 2:00am following the ED visit. He awoke 
at 6:30am at which time he does not think he had any neuro 
deficits; he took Benadryl, motrin, and reglan which had been 
prescribed at ___ on awakening. At 7:00am, he noted that his 
speech sounded slurred. He went to work, and his boss confirmed 
that the patient's speech was slurred and that he had a left 
facial droop. As a result, he presented to ___ where a 
head CT revealed a large right MCA territory stroke, and he was 
transferred to ___ for further care. En route, EMS noted that 
his dysarthria seemed to worsen. The patient agrees with this 
assessment but feels it is now greatly improved. Of note, his 
sister who later came to the bedside notes that perhaps the 
patient already had a facial droop yesterday at 9:00pm. 

Positive as per HPI On neuro ROS, the pt denies loss of vision, 
blurred vision, diplopia, dysphagia, lightheadedness, vertigo, 
tinnitus, and hearing difficulty. Denies difficulties producing 
or comprehending speech. Denies focal weakness (except facial 
droop as above), numbness, and parasthesiae. No bowel or bladder 
incontinence or retention. Denies difficulty with gait.

On general review of systems, the pt denies recent fever or 
chills. No night sweats or recent weight loss or gain. Denies 
cough, shortness of breath. Denies chest pain or tightness, 
palpitations. Denies nausea, vomiting, diarrhea, constipation, 
or abdominal pain. No recent change in bowel or bladder habits. 
No dysuria. Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
AF not on Coumadin (stopped taking in setting of moving to
___ use)
HTN
Nicotine dependence
Prior alcohol use disorder (sobriety for ___ years)                

GERD
Unsure regarding hyperlipidemia. No diabetes. 

 
Social History:
___
Family History:
GF with stroke (in ___ or ___. Mother and bother sisters with 
CABG. GM with cerebral aneurysm. No family history of malignancy 
or clotting disorders.  
 
Physical Exam:
ON ADMISSION
============
Vitals: T: ___ P: 84 R: 18  BP: 147/81 SaO2: 100%RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple. No nuchal rigidity.
Pulmonary: no work of breathing
Cardiac: irregularly irregular
Abdomen: non-distended
Extremities: No C/C/E bilaterally

Neurologic:
Please see top of note for NIHSS.

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was dysarthric (particularly to
guttural sounds). Able to follow both midline and appendicular
commands. Pt was able to register 3 objects and recall ___ at 5
minutes. There was no evidence of apraxia (including blowing out
candle, hammering nail) or neglect (including visual, spatial,
sensory). No cortical sensory loss.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: Left facial droop
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk and tone. No pronation, no drift. No 
orbiting
with arm roll. No adventitious movements, such as tremor, noted.
No asterixis noted.  
[___]  
 [C5] [C5] [C7] [C6] [C7]  [T1][L2] [L3] [L5] [L4] [S1][L5]  
 L 5   5    5    5    5     5   5    5    5    5    5   5 
 R 5   5    5    5    5     5   5    5    5    5    5   5

-Sensory: Hyperesthesia in LUE to temperature (120% of normal)
and to pinprick in LLE (135% of normal). No deficits to light
touch, proprioception. No extinction to DSS.

-DTRs:
  ___ Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    3   2
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally. Finger tap with normal
cadence and accuracy.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Romberg
absent.

ON DISCHARGE
============
 Vitals: T: 97.5 BP: 137/103 [111-168/78-107] HR: 78 [74-79] RR: 
11 SpO2: 97% RA
 General: awake, cooperative, NAD
 HEENT: NC/AT, no scleral icterus noted, MMM
 Pulmonary: breathing comfortably, no tachypnea or increased WOB
 Cardiac: skin warm, well-perfused
 Extremities: symmetric, no edema

Neurologic:

-Mental Status: Alert, cooperative. Language is fluent with 
intact comprehension. Able to follow both midline and 
appendicular commands. 

-Cranial Nerves: EOMI without nystagmus. Left facial droop. 
Hearing intact to conversation. ___ strength in trapezii 
bilaterally.

-Motor: No pronator drift bilaterally. No adventitious 
movements, such as tremor, noted. Full power throughout.

-Sensory: Intact to LT throughout.

-DTRs: ___.

-Coordination: Deferred.
 
Pertinent Results:
ADMISSION LABS
==============
___ 12:47PM BLOOD WBC-8.7 RBC-4.96 Hgb-13.4* Hct-40.2 
MCV-81* MCH-27.0 MCHC-33.3 RDW-12.5 RDWSD-36.4 Plt ___
___ 12:47PM BLOOD ___ PTT-29.7 ___
___ 09:09AM BLOOD Glucose-132* UreaN-9 Creat-0.7 Na-140 
K-4.4 Cl-103 HCO3-24 AnGap-13
___ 12:47PM BLOOD ALT-16 AST-16 AlkPhos-90 TotBili-0.3
___ 12:47PM BLOOD CK-MB-2 cTropnT-<0.01
___ 09:09AM BLOOD Calcium-9.2 Phos-3.0 Mg-1.9
___ 12:47PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

PERTINENT LABS
==============
___ 03:28PM BLOOD %HbA1c-6.4* eAG-137*
___ 12:47PM BLOOD Triglyc-125 HDL-32* CHOL/HD-5.1 
LDLcalc-106
___ 12:47PM BLOOD TSH-1.5

IMAGING
=======
CT HEAD WITHOUT CONTRAST: 
There is a large infarct in right MCA territory. There is 4 mm 
of
midline shift. 
  
The visualized portion of the paranasal sinuses, mastoid air
cells, and middle ear cavities are clear. The visualized portion
of the orbits are unremarkable. 
  
CTA HEAD: 
The distal right M1 segment appears narrowed. There is occlusion
of the right distal portion of the upper M2 segment. The
remaining vessels of the circle of ___ and their principal
intracranial branches appear normal without stenosis, occlusion,
or aneurysm formation. The dural venous sinuses are patent. 
  
CTA NECK: 
There is complete occlusion of the right cervical internal
carotid artery with evidence of flow in the petrous segment the
internal carotid artery. There is calcification at the origin of
the right vertebral artery. The left carotid and left vertebral
arteries and their major branches appear normal with no evidence
of stenosis or occlusion. 

MRI HEAD:
1. Large right MCA distribution acute infarction, involving the 
right frontal, parietal and temporal lobes (with relative 
sparing of the basal ganglia) and foci of susceptibility 
artifact in the right temporal lobe compatible with petechial 
hemorrhage 
2. Complete occlusion of the right ICA extending from its origin 
with a small amount of reconstitution at the level of the 
carotid siphon. 
3. Narrowing of the distal M1 segment of the right MCA and 
marked attenuation of the distal superior right MCA M2 branch. 
4. Re-identified is mild narrowing of the left carotid 
bifurcation with 2 mm focal outpouching compatible with 
ulcerative plaque/pseudoaneurysm.  There is no stenosis of the 
left cervical internal carotid artery by NASCET criteria. 
 
Brief Hospital Course:
Mr. ___ is a ___ year-old right-handed man with a PMHx of AF 
not on Coumadin, HTN, active tobacco use, and prior alcohol use 
disorder (sober ___ years) who presented with 7 days of headache 
as well as dysarthria and left facial droop found to have a 
large territory R MCA stroke. Exam notable for a left facial 
droop. Etiology is likely secondary to cardioembolic source in 
the setting of atrial fibrillation. He was monitored for signs 
of swelling given the large size of the infarct, but remained 
stable. He did not need ___ services due to lack of 
disability. He was started on Pradaxa for treatment of afib. He 
will follow-up with neurology as an outpatient. 

Transitional issues:
-diet and exercise counseling versus medication for pre-diabetes

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
 1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No  
 2. DVT Prophylaxis administered? (x) Yes - () No  
 3. Antithrombotic therapy administered by end of hospital day 
2? (x) Yes - () No  
 4. LDL documented? (x) Yes (LDL = 106) - () No  
 5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given:  
 6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]  
 7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
 8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No  
 9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:   
 10. Discharged on antithrombotic therapy? () Yes [Type: () 
Antiplatelet - (x) Anticoagulation] - () No  
 11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? (x) Yes - () No - () N/A  

 
Medications on Admission:
None
 
Discharge Medications:
1.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth nightly Disp #*28 
Tablet Refills:*0 
2.  Dabigatran Etexilate 150 mg PO BID 
RX *dabigatran etexilate [Pradaxa] 150 mg 1 capsule(s) by mouth 
twice a day Disp #*56 Capsule Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute ischemic right MCA stroke 
Atrial fibrillation 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,
  
You were hospitalized due to symptoms of left facial droop and 
left sided weakness resulting from an ACUTE ISCHEMIC STROKE, a 
condition where a blood vessel providing oxygen and nutrients to 
the brain is blocked by a clot. The brain is the part of your 
body that controls and directs all the other parts of your body, 
so damage to the brain from being deprived of its blood supply 
can result in a variety of symptoms.  

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
- atrial fibrillation
- pre-diabetes 
- high cholesterol 
- high blood pressure
 
We are changing your medications as follows:  
START DABIGATRAN 150MG TWICE A DAY
START ATORVASTATIN 80MG NIGHTLY 

Please take your other medications as prescribed.  
 
Please follow-up with Neurology and your primary care physician. 
 
 
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  
 
Sincerely,  
Your ___ Neurology Team  

 
Followup Instructions:
___